US07579359B2
A mixture of 1-(benzyloxy)-2-phenyl-1H-imidazo[4,5-c]quinolin-4-amine (0.32 g, 0.87 mmol) and 10% palladium on carbon (0.015 g) in ethanol (10 mL) was placed in a pressure vessel, which was purged with hydrogen three times and then placed under hydrogen pressure (45 psi, 3.1×105 Pa) and shaken on a Parr apparatus for 18 hours. An analysis by LC/MS indicated the presence of starting material. Additional 10% palladium on carbon (0.05 g) was added, and the hydrogenation was continued for an additional five hours. The reaction mixture was filtered, and the filter cake was washed with ethanol. After several days, crystals formed in the filtrate. The filtrate was concentrated under reduced pressure until it became cloudy, and the mixture was allowed to stand for 18 hours. More crystals formed, and the crystals were collected by filtration, washed with diethyl ether, and dried to provide 0.068 g of 4-amino-2-phenyl-1H-imidazo[4,5-c]quinolin-1-ol as an off-white powder, decomp. 201-209° C.

reactant | 1-(benzyloxy)-2-phenyl-1H-imidazo[4,5-c]quinolin-4-amine | 0.87 mmol, 0.32 g | C(C1=CC=CC=C1)ON1C(=NC=2C(=NC=3C=CC=CC3C21)N)C2=CC=CC=C2 | C23H18N4O
catalyst | palladium on carbon | 0.015 g | [Pd] | Pd
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-amino-2-phenyl-1H-imidazo[4,5-c]quinolin-1-ol | 0.068 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2O)C2=CC=CC=C2 | C16H12N4O
